US06329381B1
6-Amino-9-benzyl-8-bromo-2-butylthiopurine
6-Amino-9-benzyl-2-butylthiopurine (163 mg, 0.52 mmol) and bromine (0.6 ml) were dissolved in 180 ml of methylene chloride and the solution was stirred at room temperature for 4.5 hours. Aqueous sodium thiosulfate was added to the reaction mixture. The organic layer was separated, dried on magnesium sulfate and filtered. The solvent in the filtrate was evaporated in vacuo. The residue was purified with silica gel chromatography (1% methanol/chloroform) to give the subject compound (35 mg, yield 17%).

reactant | 6-Amino-9-benzyl-2-butylthiopurine | 0.52 mmol, 163 mg | NC1=C2N=CN(C2=NC(=N1)SCCCC)CC1=CC=CC=C1 | C16H19N5S
reactant | bromine | 0.6 ml | BrBr | Br2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 180 ml | C(Cl)Cl | CH2Cl2
product | 6-Amino-9-benzyl-8-bromo-2-butylthiopurine | 35 mg, yield 17% | NC1=C2N=C(N(C2=NC(=N1)SCCCC)CC1=CC=CC=C1)Br | C16H18BrN5S
